US04777258
Dacons, Joseph C.; and Sitzmann, Michael E., Journal of Heterocylic Chemistry, 14, 1151-5 (1977) disclose the cyclization of N,N'-bis(2,4,6-trinitrobenzoyl)hydrazine with PCl5 in nitrobenzene to produce 2,5-dipicryl-1,3,4-oxadiazole in yields of 30-35 percent. Separation of the product 2,5-dipicryl-1,3,4-oxadiazole from nitrobenzene (b.p. 210° C.) is very difficult. The nitrobenzene is removed either by steam distillation or by pouring the nitrobenzene reaction mixture into a second solvent (e.g., methanol) in which 2,5-dipicryl-1,3,4-oxadiazole is much less soluble. However, combining the nitrobenzene with a second solvent makes it quite difficult to recycle the nitrobenzene for further use in the process. In summary, this procedure would be difficult and expensive to scale up for commercial production.

reactant | N,N'-bis(2,4,6-trinitrobenzoyl)hydrazine | [N+](=O)([O-])C1=C(C(=O)NNC(C2=C(C=C(C=C2[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-])=O)C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C14H6N8O14
reactant | PCl5 | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 2,5-dipicryl-1,3,4-oxadiazole | C1(=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1[N+](=O)[O-])C=1OC(=NN1)C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1[N+](=O)[O-] | C14H4N8O13
